US07902197B2
A solution of crude 1-[2-ethoxy-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.075 g, 0.20 mmol) in 2 mL of dichloromethane and 2 mL of trifluoroacetic acid was stirred for 3 h, then concentrated, chasing with toluene. The resulting residue was dissolved in 3 mL of ethanol and treated with sodium acetate trihydrate (0.270 g, 1.98 mmol). The mixture was stirred overnight, then concentrated to a residue. Column chromatography (0→30% EtOAc/hexanes) afforded 0.039 g (80%) of 1-(2-ethoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one as a white solid.

reactant | 1-[2-ethoxy-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.20 mmol, 0.075 g | C(C)OC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C19H31N3O3Si
reactant | sodium acetate trihydrate | 1.98 mmol, 0.270 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-ethoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.039 g, 80% | C(C)OC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C13H17N3O2
